US09163033B2
2-bromo-2-methyl-N-(phenylmethoxy)propanamide (4g):
Prepared in 87% yield (3.53 g, 11.3 mmol) from the reaction of 2-bromo-2-methylpropanoyl bromide (3.0 g, 13 mmol) with O-benzylhydroxylamine hydrochloride (2.13 g, 13 mmol) via general procedure A. Rf=0.58 (3:1, hexanes:EtOAc); mp=88.6-91.1° C.; 1H-NMR (500 MHz, CDCl3): δ 9.05 (br s, 1H), 7.45-7.34 (m, 5H), 4.94 (s, 2H), and 1.93 (s, 6H); 13C-NMR (126 MHz, CDCl3): δ 169.7, 134.9, 129.6, 129.1, 128.8, 78.4, 59.5, and 32.6; FT-IR (neat) 3195 (br), 3034, 2954, 2890, 1652 (s), 1505, 1469, 1454, 1112, 1032, 1004 cm-1. HRESI-MS: calcd □ for C11H18BrN2O2 (M+NH4)+ 289.0546, observed 289.0543.

reactant | 2-bromo-2-methylpropanoyl bromide | 13 mmol, 3.0 g | BrC(C(=O)Br)(C)C | C4H6Br2O
reactant | O-benzylhydroxylamine hydrochloride | 13 mmol, 2.13 g | Cl.C(C1=CC=CC=C1)ON
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-bromo-2-methyl-N-(phenylmethoxy)propanamide | 87% yield | BrC(C(=O)NOCC1=CC=CC=C1)(C)C | C11H14BrNO2
